US05948911
The reaction procedure as above wherein 3,4-dimethoxy-benzylamine is reacted with 4-(4-chloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-[4-(3,4-dimethoxybenzylamino)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester

reactant | 3,4-dimethoxy-benzylamine | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | 4-(4-chloro-6-trifluoromethyl-thieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)Cl)=O | C15H8ClF3N2O2S
product | 4-[4-(3,4-dimethoxybenzylamino)-6-trifluoromethyl-thieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC(=C2)C(F)(F)F)NCC2=CC(=C(C=C2)OC)OC)=O | C24H20F3N3O4S
